US07888362B2
Preparation of 7-[4-(4-benzo[b]thiophen-4-yl-piperazin-1-yl)butoxy]-1H-quinolin-2-one
A mixture of 9.0 g of 7-(4-chlorobutoxy)-1H-quinolin-2-one, 10 g of 1-benzo[b]thiophene-4-yl-piperazine hydrochloride, 14 g of potassium carbonate, 6 g of sodium iodide and 90 ml of dimethylformamide was stirred for 2 hours at 80° C. Water was added to the reaction solution and precipitated crystals were separated by filtration. The crystals were dissolved in a mixed solvent of dichloromethane and methanol, dried over magnesium sulfate, and the solvent was evaporated under reduced pressure. The residue was purified by silica gel column chromatography (dichloromethane:methanol=100:3). Recrystallized from ethanol, 13.6 g of 7-[4-(4-benzo[b]thiophen-4-yl-piperazin-1-yl)butoxy-]-1H-quinolin-2-one in the form of a white powder was obtained.

reactant | 7-(4-chlorobutoxy)-1H-quinolin-2-one | 9.0 g | ClCCCCOC1=CC=C2C=CC(NC2=C1)=O | C13H14ClNO2
reactant | 1-benzo[b]thiophene-4-yl-piperazine hydrochloride | 10 g | Cl.S1C2=C(C=C1)C(=CC=C2)N2CCNCC2
reactant | potassium carbonate | 14 g | C([O-])([O-])=O.[K+].[K+]
reactant | sodium iodide | 6 g | [I-].[Na+]
solvent | Water | O | H2O
solvent | dimethylformamide | 90 ml | CN(C=O)C | C3H7NO
product | 7-[4-(4-benzo[b]thiophen-4-yl-piperazin-1-yl)butoxy]-1H-quinolin-2-one | S1C2=C(C=C1)C(=CC=C2)N2CCN(CC2)CCCCOC2=CC=C1C=CC(NC1=C2)=O | C25H27N3O2S
